US04649160
6.08 g of 4-methoxyphenethyl alcohol were reacted with 3.8 g of chloroacetic acid in a manner analogous to that described in Example 4(a) to give 6.64 g (79%) of 2-(4-methoxyphenyl)ethoxyacetic acid of melting point 82°-84° C. (from toluene).

reactant | 4-methoxyphenethyl alcohol | 6.08 g | COC1=CC=C(CCO)C=C1 | C9H12O2
reactant | chloroacetic acid | 3.8 g | ClCC(=O)O | C2H3ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methoxyphenyl)ethoxyacetic acid | 6.64 g, 79% | COC1=CC=C(C=C1)CCOCC(=O)O | C11H14O4
